US07148226B2
3-[1-(4-Bromo-phenyl)-1-methyl-ethyl]-5-methyl-[1,2,4]oxadiazole
To a solution of 2-(4-bromophenyl)-2-methylpropionitrile (3 g, 13.38 mmol)) in EtOH (40 mL) was added hydroxylamine HCl (4.65 g, 66.93 mmol) and K2CO3 (9.25 g, 66.93 mmol). The reaction mixture was stirred at room temperature overnight. The resultant white precipitate was eliminated by filtration and the filtrate was concentrated to a yellow oil which was dissolved in pyridine (16 mL). Acetic anhydride (3.79 mL, 40.14 mol) was added and the reaction was stirred to reflux for 2 hours. The solution was quenched with 2N HCl (50 mL) and extracted 3 times with EtOAc (20 mL). The organics were combined, and dried with Na2SO4. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (40% EtOAc in Hexanes) to yield the product as a white foam (0.88 g, 30%).

reactant | 2-(4-bromophenyl)-2-methylpropionitrile | 13.38 mmol, 3 g | BrC1=CC=C(C=C1)C(C#N)(C)C | C10H10BrN
reactant | hydroxylamine HCl | 66.93 mmol, 4.65 g | Cl.NO
reactant | K2CO3 | 66.93 mmol, 9.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Acetic anhydride | 40.14 mol, 3.79 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOH | 40 mL | CCO | C2H6O
product | 3-[1-(4-Bromo-phenyl)-1-methyl-ethyl]-5-methyl-[1,2,4]oxadiazole | 0.88 g, 30% | BrC1=CC=C(C=C1)C(C)(C)C1=NOC(=N1)C | C12H13BrN2O
